US05409943
(b) N-(3-(2,4,6-Trimethylbenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)thiourea
A mixture of 2-amino-3-(2,4,6-trimethylbenzyloxy)pyridine (2.00 g, 0.0082 mol), 4chlorophenyl isothiocyanate (1.68 g, 0.0099 mol) and toluene (10 ml) was refluxed for 3 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 2.37 g (70%), m.p. 180°-182 ° C.

reactant | 2-amino-3-(2,4,6-trimethylbenzyloxy)pyridine | 0.0082 mol, 2.00 g | NC1=NC=CC=C1OCC1=C(C=C(C=C1C)C)C | C15H18N2O
reactant | 4chlorophenyl isothiocyanate | 0.0099 mol, 1.68 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(3-(2,4,6-Trimethylbenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)thiourea | CC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC(=C1)C)C | C22H22ClN3OS
